US08119805B2
Stage (iii): tert-Butyl 3-(2-(perfluorophenoxysulfonyl)ethyl)piperidine-1-carboxylate
1-Ethylpiperidine hypophosphite (7.49 g, 41.8 mmol) were weighed into the reaction flask under an inert gas, and methylene chloride (38 ml) was added. The solution was cooled with ice-water, and 2,3,4,5,6-pentafluorophenyl 1-ethylenesulfonate (1.38 g, 5.02 mmol) [Org. Lett.; 2002; 4(15); 2549-2551] and tert-butyl 3-iodopiperidine-1-carboxylate (1.3 g, 4.18 mmol) was added at 0° C. Triethylborane solution (0.21 ml, 1 mol/l) was added to the reaction mixture and compressed air was then passed through the mixture for 10 sec. After stirring for 5 min the addition of triethylborane solution-compressed air was repeated with the same amount. Stir for 5 min, the addition of triethylborane solution-compressed air was then repeated with the same amount. The reaction mixture was washed with water (20 ml), sodium bicarbonate solution (20 ml, saturated 50% diluted) and saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with hexane/diethyl ether (3:1). Yield: 0.5 g (26%)

reactant | 1-Ethylpiperidine hypophosphite | 41.8 mmol, 7.49 g | [PH2](=O)O.C(C)N1CCCCC1
reactant | 2,3,4,5,6-pentafluorophenyl 1-ethylenesulfonate | 5.02 mmol, 1.38 g | C=CS(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C8H3F5O3S
reactant | tert-butyl 3-iodopiperidine-1-carboxylate | 4.18 mmol, 1.3 g | IC1CN(CCC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | Triethylborane | 1 mol/l, 0.21 ml | C(C)B(CC)CC | C6H15B
solvent | methylene chloride | 38 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-(2-(perfluorophenoxysulfonyl)ethyl)piperidine-1-carboxylate | FC1=C(OS(=O)(=O)CCC2CN(CCC2)C(=O)OC(C)(C)C)C(=C(C(=C1F)F)F)F | C18H22F5NO5S
